US07951815B2
1,3-(S)-Dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one (400 mg, 1.2 mmol) was dissolved in ethyl methyl ketone (3 ml), treated with water (12 μL) and with TMSCl (166 μL) and stirred overnight. The solid was filtered off, washed with ether and dried in vacuo. The product 1,3-(S)-dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride was obtained in a yield of 315 mg (71%).

reactant | 1,3-(S)-Dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one | 1.2 mmol, 400 mg | C(C1=CC=CC=C1)N1C([C@@H](NC12CCNCC2)CC2=CC=CC=C2)=O | C21H25N3O
reactant | water | 12 μL | O | H2O
reactant | TMSCl | 166 μL | C[Si](C)(C)Cl | C3H9ClSi
solvent | ethyl methyl ketone | 3 ml | CC(=O)CC | C4H8O
product | 1,3-(S)-dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride | Cl.C(C1=CC=CC=C1)N1C([C@@H](NC12CCNCC2)CC2=CC=CC=C2)=O | InChI=1S/C21H25N3O.ClH/c25-20-19(15-17-7-3-1-4-8-17)23-21(11-13-22-14-12-21)24(20)16-18-9-5-2-6-10-18;/h1-10,19,22-23H,11-16H2;1H/t19-;/m0./s1
